US07311860B2
(2) Synthesis of 1,3,5-Tricyano-2,4,6-tris[(diethoxyphosphoryl)methyl]benzene
A solution of 1,3,5-tricyano-2,4,6-tris(bromomethyl)benzene (1.0 g, 2.3 mmol) and P(OEt)3 (1.6 g, 14 mmol) in 60 mL of toluene was refluxed for 4 hrs. The solvent was removed in vacuo and the product was purified by column chromatography with hexane/ethyl acetate (10/1) as the eluent to obtain colorless oil. Yield, 0.97 g (69%); IR 2299 (CN), 1263 (P═O); 1H NMR δ 4.21 (q, 12H, J=7.2), 3.73 (d, 6H, J=22.1) 1.32 (t, 18H, J=7.2).

reactant | 1,3,5-tricyano-2,4,6-tris(bromomethyl)benzene | 2.3 mmol, 1.0 g | C(#N)C1=C(C(=C(C(=C1CBr)C#N)CBr)C#N)CBr | C12H6Br3N3
reactant | P(OEt)3 | 14 mmol, 1.6 g | P(OCC)(OCC)OCC | C6H15O3P
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 1,3,5-Tricyano-2,4,6-tris[(diethoxyphosphoryl)methyl]benzene | C(#N)C1=C(C(=C(C(=C1CP(=O)(OCC)OCC)C#N)CP(=O)(OCC)OCC)C#N)CP(=O)(OCC)OCC | C24H36N3O9P3
